US08067426B2
Intermediate 52: 2-[(1-Methylethyl)oxy]-8-(methyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
To a stirred suspension of 8-bromo-2-[(1-methylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (690 mg, 1.937 mmol) in methanol (15 ml) was added sodium methoxide (30% wt/v solution in methanol, 2.4 ml) and the reaction mixture heated at 50° C. for 2 hours. The reaction mixture was then heated to 70° C. and stirred for 2.5 hours. The solvent was evaporated and the residue partioned between saturated aqueous ammonium chloride solution (15 ml) and ethyl acetate (20 mL). The layers were separated, the aqueous phase was extracted with additional ethyl acetate (2×10 mL) and the organic extracts were combined, dried by passage through a hydrophobic frit and evaporated to give the title compound as a yellow solid (573 mg).

reactant | 8-bromo-2-[(1-methylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.937 mmol, 690 mg | BrC=1N(C2=NC(=NC(=C2N1)N)OC(C)C)C1OCCCC1 | C13H18BrN5O2
reactant | sodium methoxide | 2.4 ml | C[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 2-[(1-Methylethyl)oxy]-8-(methyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 573 mg | CC(C)OC1=NC(=C2N=C(N(C2=N1)C1OCCCC1)OC)N | C14H21N5O3
